US08124793B2
The fluorinating agent used was N-fluorobenzenesulfonimide obtained from PCR Chemicals (Gainesville Fla.). To a suspension of 0.34 g of NaH in 50 mL of tetrahydrofuran was added 2.45 g of ethylene methanedisulfonate followed by 3.8 g of N-fluorobenzenesulfonimide in 25 mL of acetonitrile. After about 15 min, 25 mL of CH2Cl2 was added, the solution was filtered, and the product was isolated by crystallization from CH2Cl2-cyclohexane to give 0.49 g of ethylene fluoromethanedisulfonate, m.p. 84-86° C. (93-2).

reactant | N-fluorobenzenesulfonimide | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | NaH | 0.34 g | [H-].[Na+]
reactant | ethylene methanedisulfonate | 2.45 g | C1S(=O)(=O)OCCOS1(=O)=O | C3H6O6S2
reactant | N-fluorobenzenesulfonimide | 3.8 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | ethylene fluoromethanedisulfonate | 0.49 g | FC1S(=O)(=O)OCCOS1(=O)=O | C3H5FO6S2
